Lab5_electronics
*SPICE Netlist generated by Advanced Sim server on 4/18/2026 7:23:05 PM
.options MixedSimGenerated

*Schematic Netlist:
CC2 NetC2_1 NetC2_2 0.1 uF
RR2 0 NetC2_2 16K TC1=0 TC2=0
VV2 NetC2_1 0 DC 1 SIN(0 1 1Meg 0 0 0) AC 1 0

.PROBE {V(NetC2_2)} =PLOT(1) =AXIS(1) =NAME(V) =UNITS(V) =RGB(255, 0, 0)

*Selected Circuit Analyses:
.AC DEC 100 0.0000001 0.1

.END